US07919621B2
Step 1: 7-Iodo-imidazo[1,2-a]quinoline (1g)
To chloroacetaldehyde (50 wt %, 460 mg, 2.92 mmol) and sodium bicarbonate (613 mg, 7.3 mmol) was added 6-Iodo-quinolin-2-ylamine (390 mg, 1.46 mmol) in 1,4-dioxane (5 mL). The mixture was heated to 80° C. overnight, and then cooled to room temperature. The solvent was removed in vacuo, and the residue was purified by silica gel chromatography (50-100% EtOAc in hexanes) to obtain the desired product, 1g.

reactant | chloroacetaldehyde | 2.92 mmol, 460 mg | ClCC=O | C2H3ClO
reactant | sodium bicarbonate | 7.3 mmol, 613 mg | C([O-])(O)=O.[Na+]
reactant | 6-Iodo-quinolin-2-ylamine | 1.46 mmol, 390 mg | IC=1C=C2C=CC(=NC2=CC1)N | C9H7IN2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 7-Iodo-imidazo[1,2-a]quinoline | IC=1C=C2C=CC=3N(C2=CC1)C=CN3 | C11H7IN2
